reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]([O:3][H:11])[C:4]([C:5](=[O:6])[H:14])([H:12])[H:13],84.22680807087359
[C:1]([C:2](=[C:3]([H:12])[H:13])[C@@:4]1([H:14])[C:5]([H:15])([H:16])[C:6]1=[C:7]([H:11])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],107.67510998743717
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C-:5]=[N+:6]=[C:4]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],107.677838963345
[C:1]([C:2]([C:3]([C:5]1=[N:6][C:4]1([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.75571735786201
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[C:4](=[C:5]=[O:6])([H:12])[H:13].[O:1](/[C:2](=[C:3](\[C:7]([H:10])([H:14])[H:15])[H:11])[H:9])[H:8],120.018480438061
[C:1]([C:2]([O:3][H:11])([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[C:6]([H:13])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],60.67822149195477
[N:1]([C+:2]([O:3][C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[N-:4][H:10])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],51.884079422132096
[C:1]([C:2](=[O:3])[N:4]([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([O+:3]=[C-:2][N:4]([H:8])[H:9])([H:5])([H:6])[H:7],106.07224586376199
[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[O+:5]=[C-:6]1)([H:8])[H:12])[H:7]>>[O:1]([C@@:2]1([H:8])[C@@:3]2([H:9])[C:4]([H:10])([H:11])[O:5][C@@:6]12[H:12])[H:7],26.550444352278
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[H:9])=[C:5]=[C:6]([H:8])[H:10])[H:7],55.520170660145205
[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C:4]([H:13])([H:14])[H:15])[H:12])[H:10])([H:7])([H:8])[H:9].[C:5](=[C:6]([H:18])[H:19])([H:16])[H:17].[H:11][H:20],94.70936308505392
[C:1]([O:2][C@@:3]1([C:5]([H:14])([H:15])[H:16])[C:4]([H:11])([H:12])[C:7]([H:13])([H:17])[C:6]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10],31.89052849506801
[C:1]([N:2]=[C:4]=[O:5])([H:7])([H:8])[H:9].[C:3]([N:6]([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[O:5])[N:6]([H:13])[H:14])([H:7])([H:8])[H:9],73.96195325099879
[C:1]([O:2][C@:3]1([O:4][H:15])[C@:5]([C:6]([H:12])([H:13])[H:14])([H:11])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C@@:5]([C:6]([H:12])([H:13])[H:14])([O:7][H:15])[H:11])([H:8])([H:9])[H:10],23.0714841611107
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]12[C:5]([H:15])([H:16])[C:6][C:7]2([H:14])[H:17])([H:8])([H:9])[H:10],92.71911256022742
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2]/[C:3]([O:4][H:12])=[C:5](/[C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],59.8758351896029
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:5]([O:4][H:10])=[O:6],121.432681417528
[C:1](=[O:4])([H:9])[H:10].[N:2](=[C:3]([H:8])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14]>>[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],78.86162887817602
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2]#[C:4][C:5](=[O:3])[C:6]#[N:7])([H:8])[H:9],82.603702802569
[O:1]([C:2]([C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])[H:6]>>[C:2](=[C:3]([H:9])[H:10])([H:7])[H:8].[C:4](=[O:5])([H:11])[H:12].[O:1]([H:6])[H:13],64.5136697636253
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])[H:8].[C:5]([O:6][H:16])([H:9])([H:14])[H:15],94.00118362446041
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:6]([H:14])([H:15])[N+:4]([C-:5]([H:12])[H:13])=[C:3]1[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],83.211837475994
[C:1]([C@@:2]([C:3]([C:5]([H:13])([H:14])[H:15])([H:11])[H:12])([C:4][C:6]([H:16])([H:17])[H:18])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],34.86594094270089
